US04511392
2-(Isoxazol-5-yl)benzenesulfonyl isocyanate
A suspension of 6 g of N-(butylaminocarbonyl)-2-(isoxazol-5-yl)benzenesulfonamide, prepared in Example 6, in 50 ml of xylene containing 0.2 g of DABCO was heated at 130°-135° C. while 1.6 ml of phosgene was added portionwise at a rate to maintain a reflux temperature of 130°-135° C. The mixture was refluxed for an additional 2 hours, cooled under nitrogen to room temperature, filtered, and the filtrate was concentrated to dryness in vacuo. A sample of the crude oily product displayed a characteristic sulfonyl isocyanate band in the IR at 2200 cm-1.

reactant | N-(butylaminocarbonyl)-2-(isoxazol-5-yl)benzenesulfonamide | 6 g | C(CCC)NC(=O)NS(=O)(=O)C1=C(C=CC=C1)C1=CC=NO1 | C14H17N3O4S
reactant | DABCO | C1CN2CCN1CC2 | C6H12N2
reactant | phosgene | 1.6 ml | C(=O)(Cl)Cl | CCl2O
solvent | xylene | 50 ml, 0.2 g | C=1(C(=CC=CC1)C)C | C8H10
product | 2-(Isoxazol-5-yl)benzenesulfonyl isocyanate | O1N=CC=C1C1=C(C=CC=C1)S(=O)(=O)N=C=O | C10H6N2O4S
